US05081255
2,5-bis(3-hydroxyethylamino-2,4,6-trinitrophenyl)-1,3,4-oxadiazole
A solution of 0.3 g (0.0049 mole) of ethanolamine in 20 ml of methanol was stirred in an ice bath during the addition of 1.0 g (0.0018 mole) of 2,5-bis(3-methoxy-2,4,6-trinitrophenyl)-1,3,4-oxadiazole. After 10 min. at 0° C., the mixture was stirred at room temperature for 5 hr. before the crude product [1.1 9 (94%), mp 250° dec] was removed by filtration. Digestion with boiling acetone gave the purified product, as an insoluble yellow solid, mp 264° C. dec.; 1H NMR (DMSO-d6 +D2O): 3.22 (t, 4H), 3.70 (t, 4H), 9.32 (s, 2H); IR(KBr): 3700-3200 (OH and NH), 1610, 1625 (C=N), 1545, 1340 (NO2). Anal. Calcd. for C18H14N10O15 : C, 35.42; H, 2.31; N, 22.95. Found: C, 35.62; H, 2.30; N, 22.93.

reactant | ethanolamine | 0.0049 mole, 0.3 g | C(O)CN | C2H7NO
reactant | 2,5-bis(3-methoxy-2,4,6-trinitrophenyl)-1,3,4-oxadiazole | 0.0018 mole, 1.0 g | COC=1C(=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])C=1OC(=NN1)C1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])OC)[N+](=O)[O-])[N+](=O)[O-] | C16H8N8O15
solvent | methanol | 20 ml | CO | CH4O
product | 2,5-bis(3-hydroxyethylamino-2,4,6-trinitrophenyl)-1,3,4-oxadiazole | OCCNC=1C(=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])C=1OC(=NN1)C1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NCCO)[N+](=O)[O-])[N+](=O)[O-] | C18H14N10O15
